US07790756B2
A mixture of 7-hydrazino-3,4-dihydro-2H-isoquinolin-1-one (8.0 g, 37.6 mmol) and 4,4-dimethyl-3-oxo-pentanenitrile (5.64 g, 45 mmol) in EtOH (100 mL) and conc. HCl (10 mL) was heated at reflux overnight. After removal of the solvent, the residue was washed with ether to afford 7-(5-amino-3-t-butyl-pyrazol-1-yl)-3,4-dihydro-2H-isoquinolin-1-one hydrochloride as a yellow solid (11.5 g, 96% yield), which was used without further purification.

reactant | 7-hydrazino-3,4-dihydro-2H-isoquinolin-1-one | 37.6 mmol, 8.0 g | N(N)C1=CC=C2CCNC(C2=C1)=O | C9H11N3O
reactant | 4,4-dimethyl-3-oxo-pentanenitrile | 45 mmol, 5.64 g | CC(C(CC#N)=O)(C)C | C7H11NO
reactant | HCl | 10 mL | Cl | ClH
solvent | EtOH | 100 mL | CCO | C2H6O
product | 7-(5-amino-3-t-butyl-pyrazol-1-yl)-3,4-dihydro-2H-isoquinolin-1-one hydrochloride | 11.5 g, 96% yield | Cl.NC1=CC(=NN1C1=CC=C2CCNC(C2=C1)=O)C(C)(C)C | InChI=1S/C16H20N4O.ClH/c1-16(2,3)13-9-14(17)20(19-13)11-5-4-10-6-7-18-15(21)12(10)8-11;/h4-5,8-9H,6-7,17H2,1-3H3,(H,18,21);1H
